US04311703
By following the manipulative procedure outlined above in Example 24, 1.97 g of 1-methyl-4-[α-(2-fluoro-4-methylphenyl)-2-tolyl]-4-piperidinol, Example 4, is treated with 6.3 ml of propionyl chloride to produce 4-[α-(2-fluoro-4-methylphenyl)-2-tolyl]-4-propionyloxy-1-methylpiperidine hydrochloride which is recrystallized from an acetone-ether mixture affording a product having an mp of 183°-186° C.

reactant | 1-methyl-4-[α-(2-fluoro-4-methylphenyl)-2-tolyl]-4-piperidinol | 1.97 g | CN1CCC(CC1)(O)C1=C(C=CC=C1)CC1=C(C=C(C=C1)C)F | C20H24FNO
reactant | propionyl chloride | 6.3 ml | C(CC)(=O)Cl | C3H5ClO
product | 4-[α-(2-fluoro-4-methylphenyl)-2-tolyl]-4-propionyloxy-1-methylpiperidine hydrochloride | Cl.FC1=C(C=CC(=C1)C)CC1=C(C=CC=C1)C1(CCN(CC1)C)OC(CC)=O | InChI=1S/C23H28FNO2.ClH/c1-4-22(26)27-23(11-13-25(3)14-12-23)20-8-6-5-7-18(20)16-19-10-9-17(2)15-21(19)24;/h5-10,15H,4,11-14,16H2,1-3H3;1H
